US06048880
2-Bromo-3-methyl-4-oxo-4,5,6,7-tetrahydrobenzothiophene
To a stirred solution of 3-methyl-4-oxo-4,5,6,7-tetrahydrobenzothiophene (500 mg, 3.01 mmol) in CH2Cl2 (15 mL) was added NBS (536 mg, 3.01 mmol) at room temperature, and the mixture stirred for 3 hours at room temperature. The reaction mixture was poured into water (50 mL) and the whole was extracted with diethyl ether (100 mL). The organic layer was washed with water (100 mL×2), brine, dried over MgSO4, and concentrated in vacuo to provide the title product (686 mg, 93% yield).

reactant | 3-methyl-4-oxo-4,5,6,7-tetrahydrobenzothiophene | 3.01 mmol, 500 mg | CC1=CSC2=C1C(CCC2)=O | C9H10OS
reactant | NBS | 3.01 mmol, 536 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | water | 50 mL | O | H2O
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 2-Bromo-3-methyl-4-oxo-4,5,6,7-tetrahydrobenzothiophene | 686 mg, 93% yield | BrC=1SC2=C(C1C)C(CCC2)=O | C9H9BrOS
